US07585885B2
5-Iodo-isophthalic acid monomethyl ester
Dissolve 5-iodo-isophthalic acid (5 g, 15.6 mmol), NaOH (600 mg, 14.8 mmol) in a mixture of methanol (100 mL), acetone (20 mL) and water (2 mL). Stir at room temperature overnight. Concentrate and redissolve the residue in diethyl ether (100 mL) and water (100 mL). Separate the aqueous layer and wash with diethyl ether (50 mL). Acidify the washed solution with 5 N HCl to about pH=1. Stir for 30 min at room temperature and filter off solid. Wash the solid with water and dry to give the title compound (3.7 g, 77%).

reactant | 5-iodo-isophthalic acid | 15.6 mmol, 5 g | IC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5IO4
reactant | NaOH | 14.8 mmol, 600 mg | [OH-].[Na+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | water | 2 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 5-Iodo-isophthalic acid monomethyl ester | 3.7 g, 77% | COC(C1=CC(C(=O)O)=CC(=C1)I)=O | C9H7IO4
